US06495541B1
(rac)-3-(4-Methoxyphenyl)-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-6-one
In a manner similar to that described for the preparation of Example Q, methyl indole4-carboxylate and p-methoxy nitrostyrene were condensed and the resulting nitro alkane was reduced/cyclized to give, after recrystallization (CH2Cl2/MeOH/hexanes), (rac)-3-(4-methoxyphenyl)-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-6-one, 16.9 mh (50%) as a white solid: m.p. 221-223° C.; 1H NMR (300 MHz, d4-MeOH) 3.57 (br m, 5H), 5.15 (br s, 1H) 6.62 (m, 2H), 6.86 (m, 2H),7.08 (app t, J=7.8 Hz, 1H), 7.11 (s, 1H),7.37 (d, J=7.9 Hz, 1H), 7.73 (d, J=7.5 Hz, 1H). Anal. (C19H16N2O2.0.25 H2O) C, H, N.

reactant | methyl indole4-carboxylate | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | p-methoxy nitrostyrene | COC1=CC=C(C=C[N+](=O)[O-])C=C1 | C9H9NO3
product | (rac)-3-(4-Methoxyphenyl)-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-6-one | COC1=CC=C(C=C1)C1CNC(C=2C=3C1=CNC3C=CC2)=O | C18H16N2O2
